US07288654B2
To a solution of methyl 5-[(5-bromo-3-formylpyridin-2-yl)(propyl)amino]pentanoate (880 mg) in dimethyl carbonate (20 ml) was added a 28% sodium methoxide solution in methanol (951 mg), and the mixture was heated at 65° C. for 6 hours under a nitrogen atmosphere. The mixture was returned to room temperature, water was added thereto, and then the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over magnesium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by silica gel column chromatography (hexane:ethyl acetate=9:1) to give methyl 3-bromo-10-propyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate (835 mg) as a yellow oily material.

reactant | methyl 5-[(5-bromo-3-formylpyridin-2-yl)(propyl)amino]pentanoate | 880 mg | BrC=1C=C(C(=NC1)N(CCCCC(=O)OC)CCC)C=O | C15H21BrN2O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | water | O | H2O
solvent | dimethyl carbonate | 20 ml | C(OC)(OC)=O | C3H6O3
solvent | methanol | 951 mg | CO | CH4O
product | methyl 3-bromo-10-propyl-7,8,9,10-tetrahydropyrido[2,3-b]azocine-6-carboxylate | 835 mg | BrC1=CC2=C(N(CCCC(=C2)C(=O)OC)CCC)N=C1 | C15H19BrN2O2
